US07696240B2
5-Methoxy-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 5-methoxy-1H-indole-2-carboxylic acid ethyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as white solid. MS: 330.0 ([M−H]−).

reactant | 5-methoxy-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC | C12H13NO3
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 5-Methoxy-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | COC=1C=C2C=C(N(C2=CC1)CC1=CC=CC2=CC=CC=C12)C(=O)O | C21H17NO3
